US06967208B2
In a flame-dried 1-L flask was combined anhydrous methyl alcohol (1.4 L), 4-methoxyphenylhyrazine hydrochloride (25 g, 140 mmol), 4,4,4-trifluoro-1-(2-furyl)-1,3-butanedione (30 g, 140 mmol), and trifluoroacetic acid (1.1 mL, 14 mmol). The resulting red slurry was maintained at rt for 14 h. A 50% solution of isopropyl alcohol/water (500 mL) was then added, and the mixture was stirred vigorously for 5 min. The mixture was filtered; additional material precipitated from the filtrate upon standing, and the new mixture was filtered. After another 3 h, the resulting filtrate was filtered a third time, and the combined beige solid was oven dried under vacuum to afford 5-(2-furyl)-1-(4-methoxy-phenyl)-3-(trifluoromethyl)-1H-pyrazole (42 g, 96%) as a light brown solid. 1H NMR (CDCl3) δ 7.42 (m, 1H), 7.35 (d, 2H), 6.98 (d, 2H), 6.89 (s, 1H), 6.33 (dd, 1H), 5.90 (d, 1H), 3.88 (s, 3H).

reactant | methyl alcohol | 1.4 L | CO | CH4O
reactant | 4-methoxyphenylhyrazine hydrochloride | 140 mmol, 25 g | Cl.COC1=CC=C(C=C1)NN
reactant | 4,4,4-trifluoro-1-(2-furyl)-1,3-butanedione | 140 mmol, 30 g | FC(C(CC(=O)C=1OC=CC1)=O)(F)F | C8H5F3O3
reactant | trifluoroacetic acid | 14 mmol, 1.1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | isopropyl alcohol water | 500 mL | C(C)(C)O.O
product | 5-(2-furyl)-1-(4-methoxy-phenyl)-3-(trifluoromethyl)-1H-pyrazole | 42 g, 96% | O1C(=CC=C1)C1=CC(=NN1C1=CC=C(C=C1)OC)C(F)(F)F | C15H11F3N2O2
